US07501449B2
4.1 Methyl 6-methoxy-2-hydroxy-3,4-dihydro-1-naphthoate
3.4 g (85.12 mmol) of 60% sodium hydride in oil, 180 ml of toluene and 4.78 ml (56.75 mmol) of dimethyl carbonate are introduced into a 1 l reactor. The reaction mixture is stirred at reflux for 1 h. A solution of 5 g (28.37 mmol) of 7-methoxy-3,4-dihydro-1H-naphthalen-2-one in 100 ml of toluene is subsequently added. The reaction mixture is heated at reflux for 24 h. The reaction mixture is subsequently cooled to 0° C. and then acidified by addition of 30 ml of acetic acid. 30 ml of water are added and the separated organic phase is separated by settling and washed with two times 50 ml of water and then with 50 ml of a saturated aqueous sodium chloride solution. The organic phase is subsequently dried over magnesium sulphate and then concentrated under reduced pressure. After purification by chromatography on a silica column (eluent: mixture of methylene chloride and of heptane), 3.9 g (16.64 mmol) of the expected product are obtained and are used as in the following stage.

reactant | sodium hydride | 85.12 mmol, 3.4 g | [H-].[Na+]
reactant | dimethyl carbonate | 56.75 mmol, 4.78 ml | C(OC)(OC)=O | C3H6O3
reactant | 7-methoxy-3,4-dihydro-1H-naphthalen-2-one | 28.37 mmol, 5 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | Methyl 6-methoxy-2-hydroxy-3,4-dihydro-1-naphthoate | 16.64 mmol, 3.9 g | COC=1C=C2CCC(=C(C2=CC1)C(=O)OC)O | C13H14O4
